US08476261B2
A solution of 8′-amino-9′,10′-difluoro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid (300 mg, 0.887 mmol), 3-(2-pyridyl)propylamine (181 mg, 1.33 mmol) and triethylamine (0.185 mL, 1.33 mmol) in DMSO (4 mL) was stirred at 100° C. for 6 h. To the reaction mixture, water and saturated NH4Cl solution were added to pH<4 and stirred for 30 min. The resulting precipitate was collected by filtration, washed with water and EtOH, and dried to yield 8′-amino-9′-fluoro-7′-oxo-10′-[3-(2-pyridyl)propylamino]spiro[oxolane-3,3′(2′H)-[7H ]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid (373 mg, 93%) as a pale yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ 1.90-1.98 (2H, m), 2.26-2.39 (2H, m), 2.77 (2H, t, J=7.3 Hz), 3.42-3.51 (2H, m), 3.73 (1H, d, J=10.4 Hz), 3.91-3.97 (1H, m), 4.07-4.13 (1H, m), 4.16 (1H, d, J=10.4 Hz), 4.24 (1H, d, J=11.0 Hz), 4.35 (1H, d, J=11.0 Hz), 6.01-6.10 (1H, m), 6.92 (2H, brs), 7.18 (1H, dd, J=6.7, 5.5 Hz), 7.24 (1H, d, J=7.9 Hz), 7.67 (1H, td, J=7.3, 1.8 Hz), 8.42 (1H, s), 8.45 (1H, d, J=4.3 Hz), 15.27 (1H, s). HRESIMS (+) 455.17350 (Calcd for C23H23FN4O5, 455.17307).

reactant | 8′-amino-9′,10′-difluoro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid | 0.887 mmol, 300 mg | NC1=C(C(=C2C=3N(C4(CO2)COCC4)C=C(C(C13)=O)C(=O)O)F)F | C15H12F2N2O5
reactant | 3-(2-pyridyl)propylamine | 1.33 mmol, 181 mg | N1=C(C=CC=C1)CCCN | C8H12N2
reactant | triethylamine | 1.33 mmol, 0.185 mL | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 8′-amino-9′-fluoro-7′-oxo-10′-[3-(2-pyridyl)propylamino]spiro[oxolane-3,3′(2′H)-[7H ]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid | 373 mg, 93% | NC1=C(C(=C2C=3N(C4(CO2)COCC4)C=C(C(C13)=O)C(=O)O)NCCCC1=NC=CC=C1)F | C23H23FN4O5
